US07265227B2
N-(2-Chlorobenzoyl)-4-(3,4-dichlorophenoxy)-1-piperidineethanesulfonamide (an example of a compound of formula (Id))
4-(3,4-Dichlorophenoxy)-1-piperidineethanesulfonamide (0.1 g), EDCI (0.108 g), HOBT (40 mg), DMAP (40 mg) and 2-chlorobenzoic acid (88 mg) were dissolved in dichloromethane (5 mL) and triethyalamine (0.5 mL) was added. The reaction mixture was stirred for 17 h. The solvents were evaporated. The residue was purified by HPLC (gradient Ammonium acetate/Acetonitrile 95% to 25%; Xterra column) to give the subtitle compound (40 mg)

reactant | 4-(3,4-Dichlorophenoxy)-1-piperidineethanesulfonamide | 0.1 g | ClC=1C=C(OC2CCN(CC2)CCS(=O)(=O)N)C=CC1Cl | C13H18Cl2N2O3S
reactant | EDCI | 0.108 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 40 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-chlorobenzoic acid | 88 mg | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
catalyst | DMAP | 40 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-Chlorobenzoyl)-4-(3,4-dichlorophenoxy)-1-piperidineethanesulfonamide | 40 mg | ClC1=C(C(=O)NS(=O)(=O)CCN2CCC(CC2)OC2=CC(=C(C=C2)Cl)Cl)C=CC=C1 | C20H21Cl3N2O4S
